US04599333
To a suspension of 1.32 g of 61% sodium hydride in 20 ml of benzene was added dropwise at room tmperature a solution of 2.6 g of 2-methyl-2-aminopropanethiol in 10 ml of benzene. Then, a solution of 4.1 g of 3,6-dichloropyridazine in 10 ml of benzene was added, and the mixture was refluxed for 6 hours. After cooling, the reaction mixture was washed with water and dried over magnesium sulfate. The solvent was evaporated to give 1.96 g of 3-(2-amino-2-methylpropylthio)-6-chloropyridazine.

reactant | sodium hydride | 1.32 g | [H-].[Na+]
reactant | 2-methyl-2-aminopropanethiol | 2.6 g | CC(CS)(C)N | C4H11NS
reactant | 3,6-dichloropyridazine | 4.1 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 3-(2-amino-2-methylpropylthio)-6-chloropyridazine | 1.96 g | NC(CSC=1N=NC(=CC1)Cl)(C)C | C8H12ClN3S
